AGC private fixture
.include system.lib
* Transistor-level AGC controller
* Local CMOS two-stage op-amp (diff pair, tail, active load, CS stage, Miller C)
.subckt amp_local inp inn out vcc vss
* Bias reference
Mb_ref vb vb vss vss NMOS_SYS W=12u L=2u
Rb     vcc vb 40k
* Tail current source
Mtail  t vb vss vss NMOS_SYS W=24u L=2u
* NMOS differential pair (M2 on inp => overall non-inverting)
M1     d1 inn t vss NMOS_SYS W=60u L=1u
M2     d2 inp t vss NMOS_SYS W=60u L=1u
* PMOS active current-mirror load
M3     d1 d1 vcc vcc PMOS_SYS W=30u L=1u
M4     d2 d1 vcc vcc PMOS_SYS W=30u L=1u
* Second gain stage (PMOS CS + NMOS sink)
M6     out d2 vcc vcc PMOS_SYS W=120u L=1u
M7     out vb vss vss NMOS_SYS W=60u L=2u
* Miller compensation
Cc     out d2 500f
.ends amp_local

* Top-level AGC candidate
.subckt candidate detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss
* ---- Detector input filter: 600 ohm each leg, 150 fF differential ----
Rfp    detp fp 600
Rfn    detn fn 600
Cdiff  fp fn 150f

* ---- NPN emitter-follower isolation with NPN mirror sinks ----
Qefp   vcc fp ep QN_SYS
Qefn   vcc fn en QN_SYS
Rset   vcc bref 10k
Qref   bref bref vss QN_SYS
Qsp    ep bref vss QN_SYS
Qsn    en bref vss QN_SYS

* ---- Stage 1: closed-loop diff amp, gain ~13.97 V/V ----
* pkd = agc_pkd_ref + (Rf/R1)*(ep - en)
R1n    en n1 1k
Rfn1   pkd n1 15.12k
R1p    ep p1 1k
Rfp1   agc_pkd_ref p1 15.12k
X1     p1 n1 pkd vcc vss amp_local

* ---- Stage 2: compare pkd with oa, generate agc ----
* Inverting summing amp vs agc_ref:
*   agc = agc_ref - gp*(pkd - agc_ref) - go*(oa - agc_ref)
* gp = 4.75k/10k = 0.475, go = 4.75k/28.1k ~ 0.169
Rp     pkd n2 10k
Ro     oa  n2 28.1k
Rf2    agc n2 4.75k
X2     agc_ref n2 agc vcc vss amp_local

.ends candidate


VCC vcc 0 3.3
VOA oa 0 1.2
VPKDREF agc_pkd_ref 0 0.8
VAGCREF agc_ref 0 1.2864
VDETN detn 0 3.15
VDETD detp detn PWL(0 0 1u 0 1.01u 20m 3u 20m 3.01u 50m 5u 50m 5.01u 0 6u 0 6.01u 20m 8u 20m 8.01u 50m 10u 50m)
RLOAD agc 0 1Meg
CLOAD agc 0 10p
XDUT detp detn oa pkd agc agc_pkd_ref agc_ref vcc 0 candidate

.control
set wr_vecnames
set wr_singlescale
tran 1n 10u
wrdata tran.dat v(pkd) v(agc)
quit
.endc
.end
